US08455477B2
To a solution of butyllithium (38.8 ml, 97 mmol) in tetrahydrofuran (194 ml) at −78° C. was added diisopropylamine (13.8 ml, 97 mmol) dropwise. After 15 minutes at −78° C., 2,6-difluoropyridine (8.8 ml, 97 mmol) was added slowly. After 1 hour slowly, a solution of iodine (24.6 g, 97 mmol) in tetrahydrofuran (50 ml) was carefully added, keeping the internal temperature at −78° C. Sodium sulfite (3.0 g, 24 mmol) was added and the temperature was allowed to gradually increase to ambient temperature. The reaction mixture was diluted with ethyl ether, washed with water, then dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel, eluting (ethyl acetate/isohexane gradient) to give 2,6-difluoro-3-iodopyridine.

reactant | butyllithium | 97 mmol, 38.8 ml | C(CCC)[Li]
reactant | diisopropylamine | 97 mmol, 13.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2,6-difluoropyridine | 97 mmol, 8.8 ml | FC1=NC(=CC=C1)F | C5H3F2N
reactant | iodine | 97 mmol, 24.6 g | II | I2
reactant | Sodium sulfite | 24 mmol, 3.0 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 194 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2,6-difluoro-3-iodopyridine | FC1=NC(=CC=C1I)F | C5H2F2IN
